US04122265
A solution of 12.4 g. of 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid ethyl ester in 70 ml. of dimethylformamide is treated under an atmosphere of argon at room temperature with 0.1 mol. of sodium amide (8.0 g. of a 50% suspension in toluene) and then stirred at 100° C. for 2 hours. After cooling, the mixture is poured on to 400 ml. of ice-water and the precipitate is removed by filtration, washed with water and dissolved in methylene chloride. The organic solution is washed with water, dried over sodium sulfate and concentrated to dryness. The residue is dissolved in chloroform and chromatographed on 800 g. of silica gel using chloroform/n-heptane/ethanol (10:10:1) for the elution. The uniform fractions are combined and evaporated. After recrystallization from acetonitrile, there is obtained 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid amide in the form of yellowish crystals having a melting point of 241°-244° C. (decomposition).

reactant | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)C | C18H16ClNO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium amide | [NH2-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-2-methyl-3-phenylisoindole-1-carboxylic acid amide | ClC1=CC2=C(N(C(=C2C=C1)C(=O)N)C)C1=CC=CC=C1 | C16H13ClN2O
